US09402841B2
Step E: (S)-3-(7-fluoro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
A solution of (S)-tert-butyl 3-((7-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (120 mg, 0.29 mmol) in 4M HCl/EtOAc (10 mL) was stirred at RT for 30 minutes. The reaction mixture was concentrated in vacuo to give the title compound, which was used without further purification (100 mg, 100%). ESI-MS m/z [M+H]+ 315.2.

reactant | (S)-tert-butyl 3-((7-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 0.29 mmol, 120 mg | FC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H23FN6O3
solvent | HCl EtOAc | 4M, 10 mL | Cl.CCOC(=O)C
product | (S)-3-(7-fluoro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | FC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CNCC1)C1=NNC(N1)=O | C15H15FN6O
